US07312249B2
d. Preparation of Dimethyl 4-[3-(4-methoxymethoxy-3-methylphenyl)propyl]phthalate
In a manner similar to Example 1e, by reacting 4.5 g (21.6 mmol) of 4-allyl-1-ethoxymethoxy-2-methylbenzene with 6.3 g (25.7 mmol) of 9-BBN, 7.4 g (21.6 mmol) of dimethyl 4-trifluoromethanesulphonyloxyphthalate, 5.9 g (42.6 mmol) of potassium carbonate and 880 mg (1.05 mmol) of dichloropalladium diphosphinoferrocene. A yellow oil is obtained (m=7 g, y=80%).

reactant | 4-allyl-1-ethoxymethoxy-2-methylbenzene | 21.6 mmol, 4.5 g | C(C=C)C1=CC(=C(C=C1)OCOCC)C | C13H18O2
reactant | 9-BBN | 25.7 mmol, 6.3 g | B1C2CCCC1CCC2 | C8H15B
reactant | dimethyl 4-trifluoromethanesulphonyloxyphthalate | 21.6 mmol, 7.4 g | FC(S(=O)(=O)OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)(F)F | C11H9F3O7S
reactant | potassium carbonate | 42.6 mmol, 5.9 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloropalladium diphosphinoferrocene | 1.05 mmol, 880 mg | P[C-]1C=CC=C1.[C-]1(C=CC=C1)P.[Fe+2].Cl[Pd]Cl
product | Dimethyl 4-[3-(4-methoxymethoxy-3-methylphenyl)propyl]phthalate | COCOC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)C | C22H26O6
